US07470723B2
A mixture of (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl)-methanol (1.8 g, 5.7 mmol) and MnO2 (2.6 g, 30 mmol) in methylene chloride (40 mL) was stirred at room temperature for 4 h. More MnO2 (1.3 g) was added and kept for overnight. The suspension was filtered thru a pad of Celite. Removal of solvent gave (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl) -methanone as an oil (1.3 g, 72% yield): 1H NMR (CDCl3) δ 2.22-2.28 (m, 2H, CH2), 3.82 (s, 6H, 2CH3), 4.28-4.31 (m, 4H, 2CH2), 6.64 (t, J=2 Hz, 1H, Ar), 6.88 (d, J=2 Hz, 2H, Ar), 6.99 (d, J=8 Hz, 1H, Ar), 7.42 (dd, J=1, 9 Hz, 1H, Ar), 7.48 (d, J=2 Hz, 1H, Ar).

reactant | (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl)-methanol | 5.7 mmol, 1.8 g | O1C2=C(OCCC1)C=C(C=C2)C(O)C2=CC(=CC(=C2)OC)OC | C18H20O5
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 30 mmol, 2.6 g | O=[Mn]=O
catalyst | MnO2 | 1.3 g | O=[Mn]=O
product | (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl) -methanone | 1.3 g, 72% yield | O1C2=C(OCCC1)C=C(C=C2)C(=O)C2=CC(=CC(=C2)OC)OC | C18H18O5
